US08211908B2
To a solution of 0.07 g of 1-(2-(4-aminopiperidin-1-yl)ethyl)-1,8-naphthyridin-2(1H)-one in 3 mL of dichloromethane, 57 mg of 7-chloro-3-oxo-3,4-dihydro-2H-pyrido(3,2-b)(1,4)thiazine-6-carbaldehyde and 14 μL of acetic acid were added, the mixture was stirred for 10 minutes, and then, 79 mg of sodium triacetoxyborohydride was added to the reaction mixture, and the mixture was reacted for 1 day. Thereto was further added 7 μL of acetic acid, the mixture was stirred for 35 minutes, and then, 7 μL of acetic acid and 26 mg of sodium triacetoxyborohydride was added thereto, and the mixture was reacted for 20 minutes. To the reaction mixture, water, a saturated aqueous sodium hydrogen carbonate solution, chloroform and sodium chloride were added, the organic layer was separated, and the aqueous layer was extracted with chloroform while salting out. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was dissolved in 5 mL of 6 mol/L hydrochloric acid, and the solvent was distilled off under reduced pressure. The resultant residue was purified by reverse silica gel column chromatography using an eluent of water to obtain 71 mg of 7-chloro-6-(((1-(2-(2-oxo-1,8-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)amino)methyl)-2H-pyrido(3,2-b)(1,4)thiazin-3(4H)-one hydrochloride as a light gray solid.

reactant | 1-(2-(4-aminopiperidin-1-yl)ethyl)-1,8-naphthyridin-2(1H)-one | 0.07 g | NC1CCN(CC1)CCN1C(C=CC2=CC=CN=C12)=O | C15H20N4O
reactant | 7-chloro-3-oxo-3,4-dihydro-2H-pyrido(3,2-b)(1,4)thiazine-6-carbaldehyde | 57 mg | ClC1=CC=2SCC(NC2N=C1C=O)=O | C8H5ClN2O2S
reactant | sodium triacetoxyborohydride | 79 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 26 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | acetic acid | 7 μL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 7 μL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 14 μL | C(C)(=O)O | C2H4O2
product | 7-chloro-6-(((1-(2-(2-oxo-1,8-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)amino)methyl)-2H-pyrido(3,2-b)(1,4)thiazin-3(4H)-one hydrochloride | 71 mg | Cl.ClC1=CC=2SCC(NC2N=C1CNC1CCN(CC1)CCN1C(C=CC2=CC=CN=C12)=O)=O | InChI=1S/C23H25ClN6O2S.ClH/c24-17-12-19-22(28-20(31)14-33-19)27-18(17)13-26-16-5-8-29(9-6-16)10-11-30-21(32)4-3-15-2-1-7-25-23(15)30;/h1-4,7,12,16,26H,5-6,8-11,13-14H2,(H,27,28,31);1H
